US08378097B2
Piperazine (20.0 g, 232 mmol) and 3,6-dichloropyridazine (34.6 g, 232 mmol) were mixed with 2-butanone and heated at 62° C. for 16 h. The reaction mixture was cooled to room temperature and the precipitated product filtered and washed with 2-butanone. The solid was redissolved in DCM (250 mL), filtered and the filtrate evaporated. The solid was dried in vacuo to yield 37.3 g, 81% 3-chloro-6-piperazin-1-ylpyridazine.

reactant | Piperazine | 232 mmol, 20.0 g | N1CCNCC1 | C4H10N2
reactant | 3,6-dichloropyridazine | 232 mmol, 34.6 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
solvent | 2-butanone | CC(CC)=O | C4H8O
product | 3-chloro-6-piperazin-1-ylpyridazine | 37.3 g, 81% | ClC=1N=NC(=CC1)N1CCNCC1 | C8H11ClN4
